US07375126B2
4-Pyridin-2-yl-indan-1-one O-methyl-oxime
2-Pyridylzinc bromide (10 mL, 5 mmol, 0.5M in THF) was added to 4-bromoindan-1-one O-methyl-oxime (600 mg, 2.5 mmol) and Pd(PPh3)4 (58 mg, 0.05 mmol) under nitrogen atmosphere. The stirred solution was heated at 120° C. for 10 minutes on the microwave. After cooling to ambient temperature, the reaction mixture was filtered through celite, then silica gel with ethyl acetate. The filtrate was concentrated to a brown oil and chromatographed on silica gel with 20-40% ethyl acetate in hexane. Obtained 4-pyridin-2-ylindan-1-one O-methyloxime (326 mg, 55%) as a yellow oil. MS (DCI/NH3) m/z: 239.09 [M+H]+. 1H NMR (DMSO-d6) δ: 2.82 (m, 2H), 3.29 (m, 2H), 3.92 (s, 3H), 7.36 & 7.38 (pair of dd, 1H), 7.43 (t, 1H), 7.64 (dd, 1H), 7.74 (dd, 1H), 7.75 (dt, 1H), 7.91 (td, 1H), 8.68 & 8.69 (pair of dd, 1H).

reactant | 2-Pyridylzinc bromide | 5 mmol, 0.5M, 10 mL | [Br-].N1=C(C=CC=C1)[Zn+]
reactant | 4-bromoindan-1-one O-methyl-oxime | 2.5 mmol, 600 mg | CON=C1CCC2=C(C=CC=C12)Br | C10H10BrNO
catalyst | Pd(PPh3)4 | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Pyridin-2-yl-indan-1-one O-methyl-oxime | CON=C1CCC2=C(C=CC=C12)C1=NC=CC=C1 | C15H14N2O
